US06716851B2
4-(3-Phenoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-phenoxyaniline (71 mg, 0.386 mmol) similar to Example 58 and isolated as a pale white solid (33 mg, 42%). 1H NMR (CDCl3): 9.74 (d, J=2.1 Hz, 1H), 8.72-8.66 (m, 2H), 8.52 (bs, 1H), 7.45-7.37 (m, 4H), 7.21-7.10 (m, 5H), 6.97 (s, 1H), 6.93 (dd, J=2.1, 8.1 Hz, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-phenoxyaniline | 0.386 mmol, 71 mg | O(C1=CC=CC=C1)C=1C=C(N)C=CC1 | C12H11NO
product | 4-(3-Phenoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | O(C1=CC=CC=C1)C=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C22H15F3N4O
